US08124705B2
To 5000 g (0.31 mol) of dried macrotetrol (e.g., polycaprolactone, MW 16.000 g/mol, pentaerythritol initiated), 193.8 g (1.25 mol) of isocyanato ethylmethacrylate IEM (Karenz Moi) was added dropwise at 110° C. during 0.5 hour. The reaction was carried out at 110° C. until absorption by an isocyanate group at a wavelength of 2250 cm−1 in the infrared absorption spectrum was no longer observed in order to obtain an urethane tetramethacrylate.

reactant | pentaerythritol | OCC(CO)(CO)CO | C5H12O4
reactant | isocyanato ethylmethacrylate | 1.25 mol, 193.8 g | C(C)C=C(C(=O)ON=C=O)C | C7H9NO3
product | urethane tetramethacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.NC(=O)OCC | InChI=1S/4C4H6O2.C3H7NO2/c4*1-3(2)4(5)6;1-2-6-3(4)5/h4*1H2,2H3,(H,5,6);2H2,1H3,(H2,4,5)
